US07875728B2
1-(4-fluorophenyl)-4-phenylazo-1H-pyrazole-3,5-diamine was prepared using 85 mg (0.5 mmol) of 2-(phenylhydrazono)malononitrile, which was derived from aniline (10 mL, 107 mmol) and malononitrile (161 mmol), and 4-fluorophenylhydrazine hydrochloride (81 mg, 0.5 mmol) with the addition of 0.5 mL of 5% sodium hydroxide solution. After reacting for 4 hrs, very little solid had formed; however, analysis of the reaction solution by TLC indicated that no starting material remained. The resulting solid was removed by filtration and the solvent was evaporated from the filtrate to yield 29 mg (20%) of the compound as a brown solid.

reactant | 2-(phenylhydrazono)malononitrile | 0.5 mmol, 85 mg | C1(=CC=CC=C1)NN=C(C#N)C#N | C9H6N4
reactant | aniline | 107 mmol, 10 mL | NC1=CC=CC=C1 | C6H7N
reactant | malononitrile | 161 mmol | C(CC#N)#N | C3H2N2
reactant | 4-fluorophenylhydrazine hydrochloride | 0.5 mmol, 81 mg | Cl.FC1=CC=C(C=C1)NN
reactant | sodium hydroxide | 0.5 mL | [OH-].[Na+]
product | 1-(4-fluorophenyl)-4-phenylazo-1H-pyrazole-3,5-diamine | FC1=CC=C(C=C1)N1N=C(C(=C1N)N=NC1=CC=CC=C1)N | C15H13FN6
